US04141901
To a solution of 5-chloro-2-[3-(2-phthalimidoacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone (2.3 g) in ethanol (20 ml), hydrazine hydrate (0.92 g) is added, and the resultant mixture is refluxed for 1 hour. The precipitated phthalylhydrazide is filtered off, and the filtrate is evaporated under reduced pressure. The residue is dissolved in methylene chloride, washed with saturated aqueous sodium bicarbonate and water in order, dried over sodium sulfate, and evaporated under reduced pressure. The residue is chromatographed on a column of silica gel, and the product obtained from the eluate by evaporation is recrystallized from ethyl acetate to give 5-chloro-2-(3-glycylaminomethyl-5-methyl-4H-1,2,4-triazol-4-yl)-benzophenone hydrate as crystals melting at 110° to 113° C. The yield is 94%.

reactant | 5-chloro-2-[3-(2-phthalimidoacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone | 2.3 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CNC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C27H20ClN5O4
reactant | hydrazine hydrate | 0.92 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-chloro-2-(3-glycylaminomethyl-5-methyl-4H-1,2,4-triazol-4-yl)-benzophenone hydrate | yield is 94% | O.ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CNC(CN)=O | InChI=1S/C19H18ClN5O2.H2O/c1-12-23-24-17(11-22-18(26)10-21)25(12)16-8-7-14(20)9-15(16)19(27)13-5-3-2-4-6-13;/h2-9H,10-11,21H2,1H3,(H,22,26);1H2
